US07153859B2
Ethyl 2-amino-3-(3,4-dimethoxyphenyl)propionate (the compound obtained in Example 1-(1)) (15.2 g), 4-isopropyloxybenzoic acid (10.8 g), and 1-hydroxybenzotriazole monohydrate (9.2 g) are dissolved in methylene chloride (120 ml), and thereto is added 1,3-dicyclohexylcarbodiimide (12.4 g) under ice-cooling, and the mixture is stirred at room temperature overnight. The insoluble materials are removed by filtration, and the filtrate is washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The precipitated crystals are collected by filtration with diethyl ether to give ethyl 3-(3,4-dimethoxyphenyl)-2-{[4-(isopropyloxy)phenyl]carbonylamino}propionate (24.2 g).

reactant | Ethyl 2-amino-3-(3,4-dimethoxyphenyl)propionate | NC(C(=O)OCC)CC1=CC(=C(C=C1)OC)OC | C13H19NO4
reactant | 4-isopropyloxybenzoic acid | 10.8 g | C(C)(C)OC1=CC=C(C(=O)O)C=C1 | C10H12O3
reactant | 1-hydroxybenzotriazole monohydrate | 9.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-dicyclohexylcarbodiimide | 12.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-(3,4-dimethoxyphenyl)-2-{[4-(isopropyloxy)phenyl]carbonylamino}propionate | 24.2 g | COC=1C=C(C=CC1OC)CC(C(=O)OCC)NC(=O)C1=CC=C(C=C1)OC(C)C | C23H29NO6
